US07700598B2
21b 3-(3,4-dichloro-phenyl)-2-oxo-propionic acid
140 mL 4 M HCl were added to a suspension of 21.0 g (76.6 mmol) 2-acetylamino-3-(3,4-dichloro-phenyl)-acrylic acid in 100 mL N-methyl-2-pyrrolidinone and the reaction mixture was then heated for 4 h at an oil bath temperature of 125° C. The cooled reaction solution was poured onto a cooled mixture of 350 mL water and 120 mL toluene. The phases were separated, the aqueous phase was again extracted with toluene, the combined organic phases were extracted with water, filtered through Na2SO4 and evaporated down i. vac. The residue was taken up in 1 M NaOH and washed twice with diethyl ether. The aqueous phase was acidified with 2 M HCl and extracted three times with EtOAc. The combined organic phases were filtered through Na2SO4 and evaporated down i. vac. The residue was combined with diethyl ether, suction filtered and dried in the vacuum drying cupboard.

reactant | HCl | 4 M, 140 mL | Cl | ClH
reactant | 2-acetylamino-3-(3,4-dichloro-phenyl)-acrylic acid | 76.6 mmol, 21.0 g | C(C)(=O)NC(C(=O)O)=CC1=CC(=C(C=C1)Cl)Cl | C11H9Cl2NO3
reactant | water | 350 mL | O | H2O
reactant | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | N-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(3,4-dichloro-phenyl)-2-oxo-propionic acid | ClC=1C=C(C=CC1Cl)CC(C(=O)O)=O | C9H6Cl2O3
